US07439393B2
ii) (1R)-2-[(6-{2-[(2,6-Dichlorobenzyl)oxy]ethoxy}hexyl)amino]-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol
A solution of (5R)-3-(6-{2-[(2,6-dichlorobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (140 mg) in THF (7 ml) under nitrogen was treated with potassium trimethylsilanolate (130 mg) and the mixture was heated (oil bath temperature 80°) with stirring for 3 h. The mixture was cooled to 20° and was partitioned between phosphate buffer solution (20 ml, pH6.5) and EtOAc (20 ml). The organic phase was separated, dried (NaSO4) and the solvent evaporated in vacuo to give the title compound (130 mg). LCMS RT=3.00 min.

reactant | (5R)-3-(6-{2-[(2,6-dichlorobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 140 mg | ClC1=C(COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C(=CC=C1)Cl | C28H35Cl2NO6
reactant | potassium trimethylsilanolate | 130 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | (1R)-2-[(6-{2-[(2,6-Dichlorobenzyl)oxy]ethoxy}hexyl)amino]-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 130 mg | ClC1=C(COCCOCCCCCCNC[C@H](O)C2=CC3=C(OC(OC3)(C)C)C=C2)C(=CC=C1)Cl | C27H37Cl2NO5
